US07645755B2
b) 4-(4-{[4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonyl]-amino}-3-cyclohex-1-enyl-phenyl)-piperidine-1-carboxylic acid (2-hydroxy-ethyl)-amide
A solution of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (2-cyclohex-1-enyl-4-piperidin-4-yl-phenyl)-amide trifluoroacetic acid salt (as prepared in the previous step, 116 mg, 0.192 mmol) and DIEA (134 μL, 0.770 mmol) in 4 mL of DCM was added slowly to solution of triphosgene (23 mg, 0.0768 mmol) in 4 mL of DCM at −78° C. under Ar. The mixture was stirred at −78° C. for 15 min, warmed to RT and stirred for 15 min and cooled to −78° C. again. A suspension of 2-amino-ethanol (350 μL, 5.77 mmol) in 4 mL of THF was added and the resulting mixture was warmed to RT and stirred for 20 h under Ar. Treated with 100 mL of EtOAc, the mixture was washed with H2O (3×20 mL), brine (20 mL) and dried (Na2SO4). Removal of the solvent in vacuo followed by flash chromatography of the residue on silica gel (10% EtOAc/DCM then 5% MeOH/DCM) gave 95 mg (83%) of the title compound as a colorless oil. 1H-NMR (CDCl3; 400 MHz): δ 9.68 (s, 1H), 8.25 (d, 1H, J=8.4 Hz), 7.77 (s, 1H), 7.12 (dd, 1H, J=8.4, 2.2 Hz), 7.01 (d, 1H, J=2.2 Hz), 5.94 (s, 2H), 5.83 (m, 1H), 4.96 (t, 1H, J=5.6 Hz), 4.11 (d, 2H, J=13.3 Hz), 3.75 (ddd, 2H, J=4.4 Hz), 3.66 (t, 2H, J=8.3 Hz), 3.44 (ddd, 2H, J=5.0 Hz), 3.36 (t, 1H, J=4.6 Hz), 2.91 (ddd, 2H, J=13.0, 2.2 Hz), 2.66 (dddd, 1H, J=12.2, 12.2, 3.3, 3.3 Hz), 2.18-2.33 (m, 4H), 1.75-1.91 (m, 6H), 1.67 (dddd, 2H, J=12.9, 12.9, 12.9, 4.0 Hz), 0.97 (t, 2H, J=8.3 Hz), 0.00 (s, 9H). Mass spectrum (ESI, m/z): Calcd. for C31H44N6O4Si, 593.3 (M+H), found 593.1.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (2-cyclohex-1-enyl-4-piperidin-4-yl-phenyl)-amide trifluoroacetic acid salt | FC(C(=O)O)(F)F.C1(=CCCCC1)C1=C(C=CC(=C1)C1CCNCC1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C
reactant | DIEA | 0.770 mmol, 134 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.0768 mmol, 23 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-ethanol | 5.77 mmol, 350 μL | NCCO | C2H7NO
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-(4-{[4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonyl]-amino}-3-cyclohex-1-enyl-phenyl)-piperidine-1-carboxylic acid (2-hydroxy-ethyl)-amide | 95 mg, 83% | OCCNC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCC1 | C31H44N6O4Si
